US06933322B2
N-{5-[2-(4-tert-Butyl-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide
Using same procedure as above 2-(4-tert-Butyl-phenyl)-4-Chloromethyloxazole was coupled with 2-Amino-5-naphthol then reacted with triflic anhydride to provide the title compound (0. 50 g, 30%) as a white solid, m.p. 165-167° C. 1H NMR (DMSO-d6, 400 MHz): δ 1.32 (s, 9H), 5.27 (s, 2H), 7.19 (d, 1H), 7.39 (d, 1H), 7.47-7.54 (m, 2H), 7.56-7.59 (d, 2H), 7.75 (s, 1H), 7.95 (d, 2H), 8.22 (d, 1H), 8.41 (s, 1H). MS [EI, m/z]: 503 [M−H]+. Anal. Calcd. for C25H23F3N2O4S: C, 59.52; H, 4.60; N, 5.55. Found: C, 59.23; H, 4.66; N, 5.41.

reactant | 2-(4-tert-Butyl-phenyl)-4-Chloromethyloxazole | C(C)(C)(C)C1=CC=C(C=C1)C=1OC=C(N1)CCl | C14H16ClNO
reactant | 2-Amino-5-naphthol | NC1=CC=2C=CC=C(C2C=C1)O | C10H9NO
reactant | triflic anhydride | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-{5-[2-(4-tert-Butyl-phenyl)-oxazol-4-ylmethoxy]naphthalen-2-yl}C,C,C-trifluoromethanesulfonamide | 50 g, 30% | C(C)(C)(C)C1=CC=C(C=C1)C=1OC=C(N1)COC1=C2C=CC(=CC2=CC=C1)NS(=O)(=O)C(F)(F)F | C25H23F3N2O4S
